US04720500
The procedure is analogous to that described in Example 11, but starting with sodium (2.3 g), 4-chloroacetophenone (15.5 g) and ethyl formate (11 g). The solid obtained (20.4 g) is then added to 2,6-diaminopyridine (11.6 g). The product obtained after hydrolysis and neutralization with sodium hydroxide is separated by filtration, washed with distilled water (6×100 cc) at a temperature in the vicinity of 50° C., and then air-dried. 2-Amino-7-(4-chlorophenyl)-1,8-naphthyridine (22.6 g), m.p. approximately 130° C., is thus obtained.

reactant | sodium | 2.3 g | [Na] | Na
reactant | 4-chloroacetophenone | 15.5 g | CC(=O)C1=CC=C(C=C1)Cl | C8H7ClO
reactant | ethyl formate | 11 g | C(=O)OCC | C3H6O2
reactant | 2,6-diaminopyridine | 11.6 g | NC1=NC(=CC=C1)N | C5H7N3
reactant | sodium hydroxide | [OH-].[Na+]
product | 2-Amino-7-(4-chlorophenyl)-1,8-naphthyridine | 22.6 g | NC1=NC2=NC(=CC=C2C=C1)C1=CC=C(C=C1)Cl | C14H10ClN3
